US07902369B2
1) Manufacture of 5-bromo-2-ethoxy-1-indanone
310 mg of [hydroxy (p-nitrobenzenesulfonyloxy]iodo]benzene was added at room temperature to 20 ml solution of acetonitrile with 130 mg of 5-bromo-1-indanone, and the mixture was heated under reflux for 3 hours. The reaction solution was cooled down to room temperature, the solvents were distilled outunder reduced pressure. The obtained residues were dissolved in 20 ml of ethanol, and refluxed all night. The reaction solution was cooled down to room temperature, the solvents were distilled outunder reduced pressure, dissolved in ethyl acetate, washed with water and saturated saline solution, and dried with anhydrous sodium sulfate. The residues obtained by distilling out the solvents under reduced pressure were purified by silicagel column chromatography (hexane:ethyl acetate=95:5) to obtain 84 mg of the above compound as a white solid.

reactant | [hydroxy (p-nitrobenzenesulfonyloxy]iodo]benzene | 310 mg | OI(OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C12H10INO6S
reactant | 5-bromo-1-indanone | 130 mg | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | acetonitrile | C(C)#N | C2H3N
product | 5-bromo-2-ethoxy-1-indanone | 84 mg | BrC=1C=C2CC(C(C2=CC1)=O)OCC | C11H11BrO2
